US05962490
To a stirred solution of 2-(3,4-methylenedioxy)phenyl-1-ethanol (1.68 g, 10 mmol) in dry pyridine was added acetic anhydride and the resultant reaction mixture was stirred at 80° C. for 1 h. The reaction mixture was poured into ice-water and was extracted with ether (2×75 ml). The combined ether extract was washed with water (2×50 ml), 5% Hcl (2×50 ml) and then with 5% NaHCO3 (2×50 ml). The organic layer was dried over magnesium sulfate and the solvent was removed under reduced pressure to give 1-acetoxy-2-[(3,4-methylenedioxy)phenyl]ethane as a solid (1.7 g, 81% yield).

reactant | 2-(3,4-methylenedioxy)phenyl-1-ethanol | 10 mmol, 1.68 g | C1OC=2C=C(C=CC2O1)C(C)O | C9H10O3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-acetoxy-2-[(3,4-methylenedioxy)phenyl]ethane | 1.7 g, 81% yield | C(C)(=O)OCCC1=CC2=C(C=C1)OCO2 | C11H12O4
